US06323235B1
3-((4-phenyloxazole-2-yl)methyl)-7-methoxybenzofuran
7-methoxy-benzofuran-3-carboxylic acid (294 mg) was dissolved in DMF (5 ml). To this solution, potassium carbonate (237 mg) and phenacyl bromide (342 mg) were added, and the resulting solution was stirred at room temperature for 30 minutes. The reaction mixture was poured into water layer (50 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. Sodium sulfate was removed by filtration and the solvent was removed under reduced pressure. The residue was dissolved in acetic acid (5 ml) and ammonium acetate (551 mg) was added, followed by refluxing the resulting solution for 4 hours. After cooling the reaction solution to room temperature, the solution was poured into water layer (100 ml) and extracted twice with ethyl acetate (30 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=5/1) using silica gel to obtain the desired compound (203 mg, yield: 47%).

reactant | 7-methoxy-benzofuran-3-carboxylic acid | 294 mg | COC1=CC=CC=2C(=COC21)C(=O)O | C10H8O4
reactant | potassium carbonate | 237 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenacyl bromide | 342 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | water | 50 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-((4-phenyloxazole-2-yl)methyl)-7-methoxybenzofuran | 203 mg, yield: 47% | C1(=CC=CC=C1)C=1N=C(OC1)CC1=COC2=C1C=CC=C2OC | C19H15NO3
